US03931155
2-Dibenzofuranyl 2-piperidylmethyl ketone
Magnesium methyl carbonate (0.6 mole, 2.5 N in dimethylformamide) is heated to 120°C. under an atmosphere of carbon dioxide. The compound 2-acetyldibenzofuran, 31.5 g (0.15 mole) is added and the mixture is stirred at 120°C. for a period of 4 hours under a stream of nitrogen to form the chelate, allowing the methyl alcohol that forms to escape. The mixture is cooled to room temperature under an atmosphere of carbon dioxide and 15.2 g (0.18 mole) of 2,3,4,5-tetrahydropyridine (as α-tripiperidine) is added and the mixture stirred at room temperature for a period of 40 hours in an atmosphere of carbon dioxide. The resulting mixture is poured into 200 ml of concentrated HCl on 600 g of ice. After standing for 48 hours the precipitate which forms is filtered and washed with ethyl ether. The 2-dibenzofuranyl-2-piperidylmethyl ketone so prepared is twice recrystallized from isopropyl alcohol as the hydrochloride salt and is obtained in 32% yield (16.0 g) and has a M.P. of 218-20°C. (dec.)

reactant | Magnesium methyl carbonate | 0.6 mole, 2.5 N | C(OC)([O-])=O.[Mg+2].COC([O-])=O
reactant | 2-acetyldibenzofuran | C(C)(=O)C1=CC2=C(OC3=C2C=CC=C3)C=C1 | C14H10O2
reactant | 2,3,4,5-tetrahydropyridine | 0.18 mole, 15.2 g | N=1CCCCC1 | C5H9N
reactant | carbon dioxide | C(=O)=O | CO2
reactant | HCl | 200 ml | Cl | ClH
solvent | methyl alcohol | CO | CH4O
product | 2-Dibenzofuranyl 2-piperidylmethyl ketone | 32% yield | N1C(CCCC1)CC(=O)C1=CC2=C(OC3=C2C=CC=C3)C=C1 | C19H19NO2
